US04395406
4-Methyl-5-bromopyrimid-2-one
Bromine (0.004 mol) was added to an aqueous solution (20 ml) of 4-methylpyrimid-2-one (0.002 mol). The reaction mixture was left at room temperature for 4 h before evaporation. The residue was triturated with acetone and recrystallised from acetic acid; yield 80%, m.p. (Found: C, 22.2; H, 2.3; Br, 59.2. Calc. for C5H5N2OBr. HBr: C, 22.2; H, 2.22; Br, 59.25).

reactant | Bromine | 0.004 mol | BrBr | Br2
reactant | 4-methylpyrimid-2-one | 0.002 mol, 20 ml | CC1=NC(NC=C1)=O | C5H6N2O
product | 4-Methyl-5-bromopyrimid-2-one | yield 80% | CC1=NC(NC=C1Br)=O | C5H5BrN2O
